US04859229
0 23 g of 2-chloro-5-[3,6-dihydro-2,6-dioxo -3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzenediazonium tetrafluoroborate is added to a solution of 75 g of cupric nitrate trihydrate in 50 ml of water. 67 mg of cuprous oxide are added thereto and the reaction mixture is stirred at room temperature for 10 minutes. The mixture is subsequently filtered, the filtrate is extracted with 50 ml of ethyl acetate and the organic phase is washed and evaporated under reduced pressure. The resulting crude product is crystallized from diethyl ether/n-hexane. There is obtained 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione.

reactant | 2-chloro-5-[3,6-dihydro-2,6-dioxo -3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzenediazonium tetrafluoroborate | F[B-](F)(F)F.ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+]#N
reactant | water | 50 ml | O | H2O
product | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
